US08039458B2
2-(1,3-Dimethyl-1H-1,2,4-triazol-5-yl)-4-fluorobenzonitrile.
5-(2-Bromo-5-fluorophenyl)-1,3-dimethyl-1H-1,2,4-triazole (2.72 g, 10.07 mmol) was treated with copper (I) cyanide to give 1.90 g (87% yield) of the title material as a white solid. 1HNMR 400 MHz (CDCl3) δ (ppm): 2.48 (3H, s, CH3), 3.89 (3H, s, NCH3), 7.34-7.42 (2H, m, aromatics), 7.88 (1H, dd, J=5.0 Hz and J=8.6 Hz, aromatic). HRMS (ESI+) calculated for C11H10FN4 [M+H+]: 217.0889; found: 217.0893.

reactant | 5-(2-Bromo-5-fluorophenyl)-1,3-dimethyl-1H-1,2,4-triazole | 10.07 mmol, 2.72 g | BrC1=C(C=C(C=C1)F)C1=NC(=NN1C)C | C10H9BrFN3
reactant | copper (I) cyanide | [Cu]C#N
product | 2-(1,3-Dimethyl-1H-1,2,4-triazol-5-yl)-4-fluorobenzonitrile | 1.90 g, 87% yield | CN1N=C(N=C1C1=C(C#N)C=CC(=C1)F)C | C11H9FN4
